US07642264B2
Trifluoro-methanesulfonic acid 6-methyl-4-(3-methyl-4-trifluoromethyl-phenyl)-pyridin-2-yl ester
6-Methyl-4-(3-methyl-4-trifluoromethyl-phenyl)-1H-pyridin-2-one: A mixture of the above described (E)-4-(3-methyl-4-trifluoromethyl-phenyl)-but-3-en-2-one (12.7 g, 55.7 mmol, ca. 80% purity), commercially available 1-ethoxycarbonylmethyl-pyridinium bromide [CAS-No. 17282-40-5] (15.07 g, 61.2 mmol) and ammonium acetate (21.45 g, 278 mmol) in EtOH (60 mL) according to general procedure Ib step 1. Obtained as an off-white solid (10.35 g, 70%). MS (ISP) 268.2 [(M+H)+]0.4) The title compound was prepared from the above described 6-methyl-4-(3-methyl-4-trifluoromethyl-phenyl)-1H-pyridin-2-one (3.5 g, 13.1 mmol), pyridine (50 ml) and trifluoromethanesulfonic anhydride (2.59 mL, 15.7 mmol) according to the general procedure Ia to d preparation of triflates. Obtained as a light yellow oil (5.1 g, 98%). MS (ISP) 400.0 [(M+H)+].

reactant | 6-methyl-4-(3-methyl-4-trifluoromethyl-phenyl)-1H-pyridin-2-one | 13.1 mmol, 3.5 g | CC1=CC(=CC(N1)=O)C1=CC(=C(C=C1)C(F)(F)F)C | C14H12F3NO
reactant | trifluoromethanesulfonic anhydride | 15.7 mmol, 2.59 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | Trifluoro-methanesulfonic acid 6-methyl-4-(3-methyl-4-trifluoromethyl-phenyl)-pyridin-2-yl ester | CC1=CC(=CC(=N1)OS(=O)(=O)C(F)(F)F)C1=CC(=C(C=C1)C(F)(F)F)C | C15H11F6NO3S
